US07008957B2
10a) 2-Trimethylsilanylethyl 4-hydroxypiperidine-1-carboxylate
6.9 g of 4-hydroxypiperidine were dissolved in 150 ml of THF. 19.4 g of 2-(trimethylsilyl)ethyl 4-nitrophenyl carbonate and 11.9 ml of N,N-diisopropylethylamine were successively added thereto. The mixture was stirred at room temperature for 1 h and then the solvent was removed in vacuo. The residue was taken up in 400 ml of ethyl acetate and washed once with 200 ml of 0.5 N HCl and twice with 200 ml of 1 N NaOH each time. The organic phase was dried with MgSO4, the solvent was removed in vacuo, and the residue was purified by chromatography on silica gel.

reactant | 4-hydroxypiperidine | 6.9 g | OC1CCNCC1 | C5H11NO
reactant | 2-(trimethylsilyl)ethyl 4-nitrophenyl carbonate | 19.4 g | C(OCC[Si](C)(C)C)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H17NO5Si
reactant | N,N-diisopropylethylamine | 11.9 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 2-Trimethylsilanylethyl 4-hydroxypiperidine-1-carboxylate | OC1CCN(CC1)C(=O)OCC[Si](C)(C)C | C11H23NO3Si
